US05480884
1-Methyl-2-isopropylamino-5-methoxycarbonylpyrimidinium sulfate
1.09 mlg [sic] (16.78 mol; 1.61 g) of methanesulfonic acid is added to a solution of 1-methyl-2-isopropylamino-5-methoxycarbonylpyrimidinium hydroxide (3.48 g; 15.35 mol) dissolved in 100 ml of anhydrous tetrahydrofuran. The mixture is stirred under argon at room temperature for one hour. The precipitate which forms is filtered and then rinsed with ether.

reactant | methanesulfonic acid | 16.78 mol, 1.61 g | CS(=O)(=O)O | CH4O3S
reactant | 1-methyl-2-isopropylamino-5-methoxycarbonylpyrimidinium hydroxide | 15.35 mol, 3.48 g | [OH-].C[N+]1=C(N=CC(=C1)C(=O)OC)NC(C)C
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Methyl-2-isopropylamino-5-methoxycarbonylpyrimidinium sulfate | S(=O)(=O)([O-])[O-].C[N+]1=C(N=CC(=C1)C(=O)OC)NC(C)C.C[N+]1=C(N=CC(=C1)C(=O)OC)NC(C)C | InChI=1S/2C10H15N3O2.H2O4S/c2*1-7(2)12-10-11-5-8(6-13(10)3)9(14)15-4;1-5(2,3)4/h2*5-7H,1-4H3;(H2,1,2,3,4)
